US07723330B2
Step A: Preparation of 5-bromo-2-(cyclohexylmethyl)-3-methylpyrimidin-4(3H)-one:
A solution of 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one (0.100 g, 0.448 mmol; prepared according to the procedure of Example 46, Step B) and PdCl2(PPh3)2 (0.016 g, 0.022 mmol) in THF (2.5 mL) was sparged with N2, and then (cyclohexylmethyl)zinc(II)bromide (0.904 ml, 0.452 mmol; 0.5 M solution in THF) was added. The reaction mixture was stirred at 100° C. for 1.5 hours. The reaction mixture was cooled to room temperature and then partitioned between EtOAc and H2O. The aqueous layer was re-extracted with EtOAc (1×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude material was purified by flash column chromatography, eluting with 10:1 CH2Cl2/EtOAc to afford 0.047 g (37%) of the product as a waxy yellow solid. LRMS (APCI pos) m/e 285, 287 (M+, Br pattern).

reactant | 5-bromo-2-chloro-3-methylpyrimidin-4(3H)-one | BrC=1C(N(C(=NC1)Cl)C)=O | C5H4BrClN2O
reactant | (cyclohexylmethyl)zinc(II)bromide | 0.452 mmol, 0.5 M, 0.904 ml | [Br-].C1(CCCCC1)C[Zn+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 0.022 mmol, 0.016 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-2-(cyclohexylmethyl)-3-methylpyrimidin-4(3H)-one | 0.047 g, 37% | BrC=1C(N(C(=NC1)CC1CCCCC1)C)=O | C12H17BrN2O
